US07371750B2
To a solution of 7-(3-dimethylamino-phenylamino)-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (80 mg, 0.18 mmol) in the mixed solvent of DMF (3 ml) and methanol (3 mL) is added 10% Pd/C, and the reaction mixture was stirred for 12 hours at room temperature under a hydrogen balloon. The reaction mixture is filtered and the filtrate is concentrated in vacuo to give 3-(5-amino-2-methyl-phenyl)-7-(3-dimethylamino-phenylamino)-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (60 mg, 81%) as a dark yellow solid.

reactant | 7-(3-dimethylamino-phenylamino)-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.18 mmol, 80 mg | CN(C=1C=C(C=CC1)NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC(=C2)[N+](=O)[O-])C)=O)C)C | C22H23N7O3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 3 mL | CO | CH4O
product | 3-(5-amino-2-methyl-phenyl)-7-(3-dimethylamino-phenylamino)-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 60 mg, 81% | NC=1C=CC(=C(C1)N1C(N(C2=NC(=NC=C2C1)NC1=CC(=CC=C1)N(C)C)C)=O)C | C22H25N7O
